US07777047B2
A mixture of (2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)methyl methanesulfonate (1.0 g), 1H-1,2,4-triazole (290 mg), potassium carbonate (580 mg) and N,N-dimethylformamide (10 mL) was stirred at 60° C. for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate-methanol (50:50:0-0:100:0-0:95:5, volume ratio) to give N-methyl-N-{2-[5-(1H-1,2,4-triazol-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide (560 mg, yield 59%) as a pale-yellow amorphous solid.

reactant | (2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)methyl methanesulfonate | 1.0 g | CS(=O)(=O)OCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C | C19H20N4O5S3
reactant | 1H-1,2,4-triazole | 290 mg | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 580 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-methyl-N-{2-[5-(1H-1,2,4-triazol-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide | 560 mg, yield 59% | CN(S(=O)(=O)C1=NC=CC=C1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1N=CN=C1 | C20H19N7O2S2
